US08604061B2
A solution of crude (R)-2,2-dimethyl-4-(1-methyl-1-phenoxythiocarbonyloxy-2-phenyl-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester (700 mg) in toluene (5 ml) was treated under an argon atmosphere with 2,2′ azobis(2-methylproponitrile) (122 mg) and tri-N-butyltin hydride (0.79 ml). The reaction mixture was refluxed for 30 min, then cooled to r.t. and then directly purified by column chromatography (silica gel, gradient: cyclohexane ->cyclohexane/EtOAc 10:1) to give (S)-2,2-dimethyl-4-(1-methyl-2-phenyl-vinyl)-oxazo-lidine-3-carboxylic acid tert-butyl ester (279 mg, 59%) as light yellow waxy solid. MS (ISP): 318.3 ([M+H]+))

reactant | (R)-2,2-dimethyl-4-(1-methyl-1-phenoxythiocarbonyloxy-2-phenyl-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester | 700 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C(CC1=CC=CC=C1)(OC(=S)OC1=CC=CC=C1)C)(C)C | C26H33NO5S
reactant | 2,2′ azobis(2-methylproponitrile) | 122 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2,2-dimethyl-4-(1-methyl-2-phenyl-vinyl)-oxazo-lidine-3-carboxylic acid tert-butyl ester | 279 mg, 59% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C(=CC1=CC=CC=C1)C)(C)C | C19H27NO3
